US06596772B1
A mixture of 1,4-bis(4-aminophenoxy)benzene (0.5 g, 1.71 mmol), triflic anhydride (0.63 mL) and sodium bicarbonate (575 mg, 6.84 mmol) in DCM was stirred at rt to give 1,4-bis(4-trifluoromethylsulfonamidophenoxy)benzene. 1HNMR (300 MHz, DMSO-d6) δ 11.7 (s, br, 2H, 2×NH), 7.24 (m, 4H), 7.08 (s, 4H), 7.03 (m, 4H). MS-EI m/z 556 [M+].

reactant | 1,4-bis(4-aminophenoxy)benzene | 1.71 mmol, 0.5 g | NC1=CC=C(OC2=CC=C(C=C2)OC2=CC=C(C=C2)N)C=C1 | C18H16N2O2
reactant | triflic anhydride | 0.63 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | 6.84 mmol, 575 mg | C([O-])(O)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1,4-bis(4-trifluoromethylsulfonamidophenoxy)benzene | FC(S(=O)(=O)NC1=CC=C(OC2=CC=C(C=C2)OC2=CC=C(C=C2)NS(=O)(=O)C(F)(F)F)C=C1)(F)F | C20H14F6N2O6S2
